US05665732
Step A: 1-Acetyl-3-methyl-1H-indazole
3-Methyl-1H-indazole (6.157 g, 44.6 mmol) in CH2Cl2 (100 mL) was treated with acetic anhydride (22.75 g, 223 mmol), triethylamine (22.5 g, 228 mmol) and DMAP (0.54 g, 4.5 mmol). The mixture was stirred 1 h at 20° C., poured into water (100 mL) and extracted with CH2Cl2 (2×100 mL). The extracts were dried (Na2SO4), concentrated and the residue recrystallised from hexane to give the title compound (4.12 g, 66%) as a white crystalline solid; mp 70°-71° C. (from hexane); 1H NMR (360 MHz, CDCl3) δ 8.41 (d, J=8.4 Hz, 1H, indazole), 7.64 (d, J=8.4 Hz, 1H, indazole), 7.54 (t, J=8.4 Hz, 1H, indazole), 7.35 (t, J=8.4 Hz, 1H, indazole), 2.75 (s, 3H, Ac), 2.58 (s, 3H, Me); MS (CI+) m/e 175 (M+H+); Anal. calcd for C10H10N2O: C, 68.95; H, 5.97; N, 16.08. Found: C, 68.80; H, 5.58; N, 16.18.

reactant | 3-Methyl-1H-indazole | 44.6 mmol, 6.157 g | CC1=NNC2=CC=CC=C12 | C8H8N2
reactant | acetic anhydride | 223 mmol, 22.75 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 228 mmol, 22.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.5 mmol, 0.54 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Acetyl-3-methyl-1H-indazole | 4.12 g, 66% | C(C)(=O)N1N=C(C2=CC=CC=C12)C | C10H10N2O
